US09302984B2
Methyl 4-(2′,4′-difluorobiphenyl-4-ylsulfonamido)trans-cyclohexanecarboxylate (ABD776a)
Using a method analogous to Method A with 2′,4′-difluorobiphenyl-4-sulfonyl chloride and methyl trans-4-aminocyclohexanecarboxylate, the title compound was obtained as a white solid.

reactant | 2′,4′-difluorobiphenyl-4-sulfonyl chloride | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H7ClF2O2S
reactant | methyl trans-4-aminocyclohexanecarboxylate | N[C@@H]1CC[C@H](CC1)C(=O)OC | C8H15NO2
product | Methyl 4-(2′,4′-difluorobiphenyl-4-ylsulfonamido)trans-cyclohexanecarboxylate | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC | C20H21F2NO4S
